### PR TITLE
[Merged by Bors] - feat: port MeasureTheory.Function.LpSeminorm

### PR DESCRIPTION
**Pull request by Komyyy**
---

I succeeded to salvage my work.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
Please run start_port.sh and rebase your changes on the commits that generates, so that the diff is reviewable

**Comment by eric-wieser** [comment]
(or I can do it for you; just let me know)

**Comment by Komyyy** [comment]
@eric-wieser I'm working for `Analysis.InnerProductSpace.PiL2` now. Please!

File: Mathlib/MeasureTheory/Function/LpSeminorm.lean [hunk 1]
```diff
@@ -105,19 +109,25 @@ theorem snorm_exponent_top {f : α → F} : snorm f ∞ μ = snormEssSup f μ :=
...
+    (μ : Measure α := by volume_tac) : Prop :=
   AEStronglyMeasurable f μ ∧ snorm f p μ < ∞
 #align measure_theory.mem_ℒp MeasureTheory.Memℒp
 
-theorem Memℒp.aEStronglyMeasurable {f : α → E} {p : ℝ≥0∞} (h : Memℒp f p μ) :
+theorem memℒp_eq {α} {_ : MeasurableSpace α} (f : α → E) (p : ℝ≥0∞) (μ : Measure α) :
+    Memℒp f p μ = (AEStronglyMeasurable f μ ∧ snorm f p μ < ∞) :=
+  rfl
+
+attribute [eqns memℒp_eq] Memℒp
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/LpSeminorm.lean:122]: Why do we want this lemma? If we are going to have it, I think it would be to state it using an `Iff`

File: Mathlib/MeasureTheory/Function/LpSeminorm.lean [hunk 2]
```diff
@@ -667,12 +685,16 @@ theorem Memℒp.right_of_add_measure {f : α → E} (h : Memℒp f p (μ + ν))
...
 #align measure_theory.mem_ℒp.norm MeasureTheory.Memℒp.norm
 
 theorem memℒp_norm_iff {f : α → E} (hf : AEStronglyMeasurable f μ) :
     Memℒp (fun x => ‖f x‖) p μ ↔ Memℒp f p μ :=
-  ⟨fun h => ⟨hf, by rw [← snorm_norm]; exact h.2⟩, fun h => h.norm⟩
+  ⟨fun h =>
+    ⟨hf, by
+      rw [← snorm_norm]
+      exact h.2⟩,
+    fun h => h.norm⟩
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/LpSeminorm.lean]: Any reason you changed this?

File: Mathlib/MeasureTheory/Function/LpSeminorm.lean [hunk 3]
```diff
@@ -895,93 +915,95 @@ theorem snorm_map_measure (hg : AEStronglyMeasurable g (Measure.map f μ)) (hf :
...
     (ν.trim hm).ae.limsup f = ν.ae.limsup f := by
   simp_rw [limsup_eq]
   suffices h_set_eq : { a : ℝ≥0∞ | ∀ᵐ n ∂ν.trim hm, f n ≤ a } = { a : ℝ≥0∞ | ∀ᵐ n ∂ν, f n ≤ a }
   · rw [h_set_eq]
   ext1 a
-  suffices h_meas_eq : ν { x | ¬f x ≤ a } = ν.trim hm { x | ¬f x ≤ a }
-  · simp_rw [Set.mem_setOf_eq, ae_iff, h_meas_eq]
-  refine' (trim_measurable_set_eq hm _).symm
+  suffices h_meas_eq : ν { x | ¬f x ≤ a } = ν.trim hm { x | ¬f x ≤ a } by
+    simp_rw [Set.mem_setOf_eq, ae_iff, h_meas_eq]; rfl
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/LpSeminorm.lean]: Any reason you changed this?

File: Mathlib/MeasureTheory/Function/LpSeminorm.lean [hunk 4]
```diff
@@ -1341,48 +1360,53 @@ theorem snorm_le_snorm_top_mul_snorm (p : ℝ≥0∞) (f : α → E) {g : α →
     exact ha
   by_cases hp_zero : p = 0
   · simp only [hp_zero, snorm_exponent_zero, MulZeroClass.mul_zero, le_zero_iff]
-  simp_rw [snorm_eq_lintegral_rpow_nnnorm hp_zero hp_top, snorm_exponent_top, snorm_ess_sup]
+  simp_rw [snorm_eq_lintegral_rpow_nnnorm hp_zero hp_top, snorm_exponent_top, snormEssSup]
   calc
-    (∫⁻ x, ↑‖b (f x) (g x)‖₊ ^ p.to_real ∂μ) ^ (1 / p.to_real) ≤
-        (∫⁻ x, ↑‖f x‖₊ ^ p.to_real * ↑‖g x‖₊ ^ p.to_real ∂μ) ^ (1 / p.to_real) := by
+    (∫⁻ x, (‖b (f x) (g x)‖₊ : ℝ≥0∞) ^ p.toReal ∂μ) ^ (1 / p.toReal) ≤
+        (∫⁻ x, (‖f x‖₊ : ℝ≥0∞) ^ p.toReal * (‖g x‖₊ : ℝ≥0∞) ^ p.toReal ∂μ) ^ (1 / p.toReal) := by
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/LpSeminorm.lean:1366]: Are all these ` : ℝ≥0∞)`s necessary? I thought the point in the elaboration trick above at the top of the file to make them not so!

File: Mathlib/MeasureTheory/Function/LpSeminorm.lean [hunk 5]
```diff
@@ -1601,29 +1628,28 @@ variable [MeasurableSpace E] [OpensMeasurableSpace E] {R : ℝ≥0}
...
+  by_cases hp0 : p.toReal = 0
   · simp only [hp0, ENNReal.rpow_zero]
     refine' eventually_of_forall fun x => _
     rw [liminf_const (1 : ℝ≥0∞)]
-    exacts[ENNReal.one_lt_top, at_top_ne_bot]
-  have hp : p ≠ 0 := fun h => by simpa [h] using hp0
-  have hp' : p ≠ ∞ := fun h => by simpa [h] using hp0
+    exact ENNReal.one_lt_top
+  have hp : p ≠ 0 := fun h => by simp [h] at hp0
+  have hp' : p ≠ ∞ := fun h => by simp [h] at hp0
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/LpSeminorm.lean]: I think this could do with a porting note about `simpa` not working, unless you know why and it's a stupid reason!

**Review by eric-wieser — APPROVED** [review]
This generally looks good; thanks!

File: Mathlib/MeasureTheory/Function/LpSeminorm.lean (hunk 1 above)
Comment (Komyyy) [reply Mathlib/MeasureTheory/Function/LpSeminorm.lean]: I've added the porting note and changed `Eq` with `Iff`.

File: Mathlib/MeasureTheory/Function/LpSeminorm.lean (hunk 2 above)
Comment (Komyyy) [reply Mathlib/MeasureTheory/Function/LpSeminorm.lean]: I haven't changed this. Probably, this is because Mathport was upgraded and output one-line.

File: Mathlib/MeasureTheory/Function/LpSeminorm.lean (hunk 3 above)
Comment (Komyyy) [reply Mathlib/MeasureTheory/Function/LpSeminorm.lean]: `; rfl` is because Lean can't close the goal without this.
`by` is changed in the process of my trial and error; I've reverted.

File: Mathlib/MeasureTheory/Function/LpSeminorm.lean (hunk 4 above)
Comment (Komyyy) [reply Mathlib/MeasureTheory/Function/LpSeminorm.lean:1361]: We need these type ascriptions in either case.
The elaboration trick is due to `MeasureTheory.Functions.LpSpace`, actually, not required in this file.
This was misleading so I've removed.

File: Mathlib/MeasureTheory/Function/LpSeminorm.lean (hunk 5 above)
Comment (Komyyy) [reply Mathlib/MeasureTheory/Function/LpSeminorm.lean]: Because the linter warns to change from `simpa` to `simp` for efficiency.

File: Mathlib/MeasureTheory/Function/LpSeminorm.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/MeasureTheory/Function/LpSeminorm.lean:1361]: @kmill, do you think writing an elaborator to make these go away is sensible/worth the effort?

Certainly there's no need to do it before this PR is merged.

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!
